US04008270
38 percent 2-(1-carboethoxy-4-isobutyl-2-oxo-cyclohex-3-enyl)propionic acid (II);
A chromatographed 1 gm. mixture of ethyl 2-(4-isobutyl-1-carboethoxy-2-oxocyclohex-3-enyl)propionate and ethyl 2-(4-isobutyl-2-oxocyclohex-3-enyl)propionate was dissolved in ethanol (4.0 ml.) and then 5.5 ml. of 1 N sodium hydroxide solution was added. The resulting mixture was stirred at 40° C. for 20 hours and then concentrated to about 7 ml. volume. The aqueous residue was extracted with 5 ml. of Skellysolve B and the extract was backwashed with 3 ml. of 1 N sodium hydroxide. The aqueous phases were combined and acidified, extracted as before, dried and concentrated to give an oil, 0.672 g. This oil product consisted of 2-(4-isobutyl-1-carboxy-2-oxocyclohex-3-enyl)propionic acid and 2-(4-isobutyl-2-oxo-cyclohex-3-enyl)propionic acid. This was shown by taking gas liquid chromatographs (glc.) and mass spectra of portions of the product oil which had been converted to silyl esters and methyl esters.

reactant | ethyl 2-(4-isobutyl-1-carboethoxy-2-oxocyclohex-3-enyl)propionate | C(C(C)C)C1=CC(C(CC1)(C(=O)OCC)C(C(=O)OCC)C)=O | C18H28O5
reactant | ethyl 2-(4-isobutyl-2-oxocyclohex-3-enyl)propionate | C(C(C)C)C1=CC(C(CC1)C(C(=O)OCC)C)=O | C15H24O3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 2-(4-isobutyl-1-carboxy-2-oxocyclohex-3-enyl)propionic acid | C(C(C)C)C1=CC(C(CC1)(C(=O)O)C(C(=O)O)C)=O | C14H20O5
reactant | 2-(4-isobutyl-2-oxo-cyclohex-3-enyl)propionic acid | C(C(C)C)C1=CC(C(CC1)C(C(=O)O)C)=O | C13H20O3
solvent | ethanol | 4.0 ml | C(C)O | C2H6O
product | 2-(1-carboethoxy-4-isobutyl-2-oxo-cyclohex-3-enyl)propionic acid | C(=O)(OCC)C1(C(C=C(CC1)CC(C)C)=O)C(C(=O)O)C | C16H24O5
